US07365079B2
(2) Preparation of 2-tosyloxy-2′-acetonaphthone
Acetonitrile solution (40 mL) containing 2-acetonaphthone (1.70 g, 9.99 mmol) and [hydroxyl(tosyloxy)iodo]benzene (4.00 mg, 10.2 mmol) was heated under ref lux for 3 hours. The reaction mixture was cooled, and ethyl acetate was added thereto. The reaction solution was washed with saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo to remove the solvent to obtain the title compound (2.33 g, 68.5%).

reactant | Acetonitrile | 40 mL | C(C)#N | C2H3N
reactant | 2-acetonaphthone | 9.99 mmol, 1.70 g | CC(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O
reactant | [hydroxyl(tosyloxy)iodo]benzene | 10.2 mmol, 4.00 mg | OI(OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=CC=C1 | C13H13IO4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tosyloxy-2′-acetonaphthone | 2.33 g, 68.5% | S(=O)(=O)(C1=CC=C(C)C=C1)OCC(=O)C1=CC2=CC=CC=C2C=C1 | C19H16O4S
